US06211215B1
In substantially the same manner as in Working Example 48, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 4-chloromethyl-5-methyl-2-[(E)-2-phenylethenyl]oxazole to give 4-[4-[3-(1-imidazolyl)propyl)phenoxymethyl]-5-methyl-2-[(E)-2-phenylethenyl]oxazole. The yield was 66%. Recrystallization from ethyl acetate-hexane gave pale yellow prisms, mp 94-95° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 4-chloromethyl-5-methyl-2-[(E)-2-phenylethenyl]oxazole | ClCC=1N=C(OC1C)\C=C\C1=CC=CC=C1 | C13H12ClNO
product | 4-[4-[3-(1-imidazolyl)propyl)phenoxymethyl]-5-methyl-2-[(E)-2-phenylethenyl]oxazole | yield was 66% | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(OC2C)\C=C\C2=CC=CC=C2)C=C1 | C25H25N3O2
